US08383639B2
5-(Benzyloxy)-2-cyclopentyl-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylic acid.
A mixture of ethyl 5-(benzyloxy)-2-cyclopentyl-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate (prepared according to the procedure in Naidu, B. N. Synlett, 2008;) (1.1 g, 3.1 mmol) and LiOH.H2O (0.25 g, 6 mmol) in 2:1 THF/H2O (15 mL) was heated at 80° C. for 1 h then cooled. The reaction mixture concentrated and the residue acidified with 1 N aq. HCl and the resulting solid isolated by filtration to yield the title compound (0.98 g, 97% yield) as a white solid. 1HNMR (500 MHz, CDCl3) δ: 7.56-7.52 (2H, m), 7.36-7.28 (3H, m), 5.42 (2H, s), 3.59 (3H, s), 3.20-3.14 (1H, m), 2.08-2.01 (2H, m), 1.93-1.78 (4H, m), 1.74-1.67 (2H, m). HRMS (M+H) calcd for C18H21N2O4: 329.1501. found: 329.1489.

reactant | ethyl 5-(benzyloxy)-2-cyclopentyl-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate | C(C1=CC=CC=C1)OC1=C(N=C(N(C1=O)C)C1CCCC1)C(=O)OCC | C20H24N2O4
reactant | LiOH.H2O | 6 mmol, 0.25 g | O[Li].O
solvent | THF H2O | 15 mL | C1CCOC1.O
product | 5-(Benzyloxy)-2-cyclopentyl-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylic acid | 0.98 g, 97% yield | C(C1=CC=CC=C1)OC1=C(N=C(N(C1=O)C)C1CCCC1)C(=O)O | C18H20N2O4
